US05643878
b) 5(S)-(Boc-amino)-4(S)-hydroxy-6phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid
Analogously to Example 1i), 3.1 g (7.18 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,4-difluorophenyl)methyl]-dihydrofuran-2-(3H)-one in 77 ml of dimethoxyethane and 19 ml of water are hydrolysed with 28.7 ml of 1M lithium hydroxide solution (19 h RT): tRet (I)=14.7 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(2,4-difluorophenyl)methyl]-dihydrofuran-2-(3H)-one | 7.18 mmol, 3.1 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C=C(C=C1)F)F | C24H27F2NO4
reactant | lithium hydroxide | 1M, 28.7 ml | [OH-].[Li+]
solvent | dimethoxyethane | 77 ml | C(OC)COC | C4H10O2
solvent | water | 19 ml | O | H2O
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6phenyl-2(R)-[(2,4-difluorophenyl)methyl]-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)F)F)O)CC1=CC=CC=C1 | C24H29F2NO5
